US07214694B2
Preparation 37: methyl(3R)-3-[3-(3-azetidinyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate
A solution of tert-butyl(3R)-3-[3-(1-benzhydryl-3-azetidinyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 36) (1.99 g, 3.66 mmol) in DCM (15 ml) was treated with ACE-CI (530 μl, 4.90 mmol) and heated at reflux for 4 hours. The solvent was removed under reduced pressure. The residue was dissolved in MeOH (15 ml) and heated at reflux for 1.5 hours. The solvent was removed under reduced pressure. The oil was dissolved in EtOAc (150 ml) and washed with sat. NaHCO3 solution (50 ml) and brine (40 ml). The aqueous extracts were combined and extracted with EtOAc. All of the organic extracts were combined, dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure to afford the title compound as a colourless oil (900 mg).

reactant | tert-butyl(3R)-3-[3-(1-benzhydryl-3-azetidinyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 3.66 mmol, 1.99 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C34H45N3O3
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | methyl(3R)-3-[3-(3-azetidinyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 900 mg | N1CC(C1)C1=NOC(=N1)[C@@H](CC(=O)OC)CCCC1CCCCC1 | C18H29N3O3
